US04757074
A solution of 4-bromochlorobenzene (20.0 g, 104 mmol) in 125 mL of dry tetrahydrofuran under nitrogen was cooled to -78° and 70 mL of 1.5M n-butyllithium in hexane was added dropwise over 20 minutes. After stirring another 10 minutes, 12.5 mL (104 mmol) of 3-bromobenzaldehyde was added dropwise and the reaction was stirred for another 10 minutes at -78°. Saturated aqueous ammonium chloride (100 mL) was added and the reaction was warmed to room temperature and extracted with 300 mL of ether. The ethereal layer was extracted with three 75 mL portions of 1M sodium bisulfite, 75 mL of 1M sodium hydroxide, 75 mL of water, and 75 mL of brine. The ether layer was dried over magnesium sulfate and the solvent removed to give 31.2 g of 3-bromo-4'-chlorobenzhydryl alcohol as a pale yellow solid. A portion was recrystallized from hexanes containing 5% ether to give white needles, m.p. 67°-68°. Calc. for C13H10Br C10: C, 52.47; H, 3.39; Br, 26.85; Cl, 11.91. Found: C, 52.25; H, 3.25; Br, 26.72; Cl, 12.09.

reactant | 4-bromochlorobenzene | 104 mmol, 20.0 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | n-butyllithium | 1.5M, 70 mL | C(CCC)[Li]
reactant | 3-bromobenzaldehyde | 104 mmol, 12.5 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-bromo-4'-chlorobenzhydryl alcohol | 31.2 g | BrC=1C=C(C(C2=CC=C(C=C2)Cl)O)C=CC1 | C13H10BrClO
